US05140034
d) 5-[(1H-Imidazol-4-yl)methyl]-3-(1-methyl-1H-indol-3-yl)-1,2,4-oxadiazole hydrochloride
3-(1-Methyl-1H-indol-3-yl)-5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-1,2,4-oxadiazole (1.25 g) was dissolved in methanolic hydrogen chloride solution (50 ml) and stirred at room temperature for 48 h. The title compound precipitated from solution as a white solid (0.92 g), m.p. 255°-257° C. Found: C, 56.95; H, 4.56; N, 21.99; Cl, 11.17; C15H13N5O.HCl requires C, 57.05; H, 4.47; N, 22.17; Cl, 11.22%; δH (360 MHz, DMSO-d6) 3.88 (3H, s, CH3), 4.61 (2H, s, CH2), 7.24 (1H, t, J=6.9 Hz, CH), 7.30 (1H, t, J=6.9 Hz, CH), 7.57 (1H, d, J=8.1 Hz, CH), 7.70 (1H, s, CH), 8.02 (1H, d, J,=7.4 Hz, CH), 8.10 (1H, s, CH), 9.10 (1H, s, CH); m/z 279 (M+, free base, 100%).

reactant | 3-(1-Methyl-1H-indol-3-yl)-5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-1,2,4-oxadiazole | 1.25 g | CN1C=C(C2=CC=CC=C12)C1=NOC(=N1)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H27N5O
reactant | hydrogen chloride | 50 ml | Cl | ClH
product | 5-[(1H-Imidazol-4-yl)methyl]-3-(1-methyl-1H-indol-3-yl)-1,2,4-oxadiazole hydrochloride | Cl.N1C=NC(=C1)CC1=NC(=NO1)C1=CN(C2=CC=CC=C12)C | InChI=1S/C15H13N5O.ClH/c1-20-8-12(11-4-2-3-5-13(11)20)15-18-14(21-19-15)6-10-7-16-9-17-10;/h2-5,7-9H,6H2,1H3,(H,16,17);1H
